US07902238B2
c) (S)-2-Amino-3-[ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-propan-1-ol
(S)-4-{[Ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.339 g, 0.84 mmol) was dissolved in dioxane (6 ml), aqueous hydrochloric acid (4N, 6 ml) was added and the mixture was stirred at 60° C. for 3 hours. The solvent was evaporated and the residue was dissolved in dichloromethane. A solution of ammonia in methanol (2N, 2 ml) was added and the mixture was evaporated over Isolute® Flash-NH2 silicagel. Chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=95:5) yielded a light yellow liquid, (0.19 g, 86%); MS (ISP): 265.3 ((M+H)+).

reactant | (S)-4-{[Ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.84 mmol, 0.339 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN(C1=NC(=NC=C1)C(F)(F)F)CC)(C)C | C18H27F3N4O3
reactant | hydrochloric acid | 4N, 6 ml | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-3-[ethyl-(2-trifluoromethyl-pyrimidin-4-yl)-amino]-propan-1-ol | N[C@H](CO)CN(C1=NC(=NC=C1)C(F)(F)F)CC | C10H15F3N4O
